US04309542
1.7 g. (-)-10,11-Dihydroxyaporphine are dissolved in 15 ml. dimethyl formamide. After the addition of 130 ml. toluene, the mixture is heated to 110° C. (bath temperature) and, within the course of 30 minutes, 25.6 ml. of a 1N methanolic solution of phenyl trimethyl ammonium hydroxide added thereto dropwise, with vigorous stirring and the simultaneous distilling off of the toluene/alcohol azeotrope. After completion of the addition, the bath temperature is gradually increased to 130° C. As soon as the temperature of the distillate passing over has reached 110°-111° C., a further 12.5 ml. of the above-described methylation solution are added thereto. The reaction mixture is subsequently heated under reflux for 1 hour and then worked up in a manner analogous to that described in Example 1, Variant A, to give (-)-10,11-dimethoxyaporphine in the form of a yellowish syrup which is purified chromatographically on basic aluminium oxide (activity stage III) using methylene chloride/petroleum ether (1:1 v/v) as elution agent, the yield being 1.555 g. (83% of theory); NMR spectrum (CDCl3) δ 2.5 (3H, s, N--CH3), 3.65 (3H,s, O--CH3), 3.83 (3H, s, O--CH3), 6.63-7.27 (4H, m), 8.1 (1H,dd, C--1--H) ppm.

reactant | (-)-10,11-Dihydroxyaporphine | OC1=CC=C2CC3N(CCC4=CC=CC(C2=C1O)=C43)C | C17H17NO2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | phenyl trimethyl ammonium hydroxide | [OH-].C1(=CC=CC=C1)[N+](C)(C)C
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | (-)-10,11-dimethoxyaporphine | COC1=CC=C2CC3N(CCC4=CC=CC(C2=C1OC)=C43)C | C19H21NO2
